US03947470
Hydrolysis of ethyl 4-(2-diethylaminoethoxy)benzoate hydrochloride with aqueous concentrated hydrochloric acid at 100° for two hours gives 4-(2-diethylaminoethoxy)benzoic acid hydrochloride, m.p. 166°-168°.

reactant | ethyl 4-(2-diethylaminoethoxy)benzoate hydrochloride | Cl.C(C)N(CCOC1=CC=C(C(=O)OCC)C=C1)CC
reactant | hydrochloric acid | Cl | ClH
product | 4-(2-diethylaminoethoxy)benzoic acid hydrochloride | Cl.C(C)N(CCOC1=CC=C(C(=O)O)C=C1)CC | InChI=1S/C13H19NO3.ClH/c1-3-14(4-2)9-10-17-12-7-5-11(6-8-12)13(15)16;/h5-8H,3-4,9-10H2,1-2H3,(H,15,16);1H
